reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](/[C:2](=[C:5](\[O:6][H:8])[H:12])[H:10])([C:3](=[O:4])[H:11])([H:7])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],67.176841933774
[C:1]([C:2]([C:4](=[C:3]([H:9])[H:10])[H:12])([H:8])[H:11])([H:5])([H:6])[H:7]>>[C:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:5])([H:6])[H:7],87.14658413216156
[O:1]=[C:2]=[C:3]=[N:4][C:5]#[N:6]>>[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6],61.0725509324471
[N:1](=[C:2])[H:8].[N:3]1=[N:4][C:7]1([C:6](=[O:5])[H:9])[H:10]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],43.79809558231821
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:5]1([H:11])([H:12])[C:6]([H:13])([H:14])[O:7]1.[N:1]([C+:2]([O:3][H:15])[N-:4][H:10])([H:8])[H:9],84.2111478899989
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C-:4]=[C:5]=[C+:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],10.405084312360891
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[O:3]=[C:4]([O:5][H:7])[C:6]([H:12])([H:13])[H:14],48.8691284352973
[N:1]([c:2]1[c:3]([H:10])[c:4]([N:5]([H:11])[H:12])[c:6]([H:13])[n:7]1[H:14])([H:8])[H:9]>>[N:1]([C:2]1=[C:3]([H:10])[C:4]([N:5]([H:11])[H:12])=[C-:6][N+:7]1([H:13])[H:14])([H:8])[H:9],84.769453634364
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([N:5]=[C:6]([H:13])[H:15])([H:12])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],82.8555264948514
[O:1]([C:2]1=[N+:5]([N-:6][H:9])[C:4]([H:8])=[N:3]1)[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],9.182477441659998
[O:1]([C@@:2]1([H:8])[C@:3]([O:4][H:10])([H:9])[C@:5]1([O:6][H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C@@:3]2([H:9])[O:4][C@@:5]12[H:11])[H:7].[O:6]([H:10])[H:12],81.898830687027
[C:1]([C:2]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:11])[H:13])([H:8])([H:9])[H:10].[O:3]([H:12])[H:14]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],68.9897021350499
[C:1](=[N+:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([O-:6])([H:7])[H:15])([H:13])[H:14])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],0.889393285649902
[C:1]([C-:2]=[O+:5][C:4]([C:3]([H:9])([H:10])[H:11])([H:12])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8],67.56216649927
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:14])[H:13])([H:6])([H:7])[H:8].[H:9][H:15]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8],73.52818791842449
[C:1]([C:2](=[O:3])/[C:4](=[C:5](/[O:6][H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],53.420265137242666
[N+:1](#[C-:2])[C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],25.919778080891007
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C:6]([O:5][C@@:4]1([H:12])[C:2][C:3]1([H:10])[H:11])([O:7][H:9])[H:13])[H:8],94.1469940235828
[C:1](/[C:2](=[C:3](/[O:4][H:14])[C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:13])[H:15])[H:12])([H:8])([H:9])[H:10].[H:11][H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],85.7636711600595
[O:1]1[C:2]([H:8])([H:9])[C@:3]([O:4][H:11])([H:10])[C@:5]1([O:6][H:7])[H:12]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],37.297205949069095
[O:1]1[C@:2]2([H:7])[C:3](=[O:4])[C@@:5]1([H:8])[O:6]2>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],15.226541947440296
[C:1](=[N:2][H:9])([H:7])[H:8].[C:3](=[O:4])([C:5]([H:10])([H:11])[H:12])[H:6]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],69.35452745537822
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O+:1]1=[C:2]([H:7])[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])=[C-:6]1,45.500061541269595
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:12])[H:11])([H:8])[H:10].[C:4](=[C:5]([O:6][H:9])[N:7]([H:15])[H:16])([H:13])[H:14],66.25341427156961
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[C:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],50.725510662171295
[O:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C@:4]([O:5][H:14])([H:13])[C:6][C:7]1([H:8])[H:15]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],30.191344159611006
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C-:4]([H:10])[O+:5]=[C:6]2[H:11].[H:9][H:12],98.8352653883004
